US06107523
A mixture of 55.2 g anhydrous potassium carbonate, 1.6 g tetrabutylammonium fluoride, 24.8 g 1-phenyl-3-isoheptyl-1,3-propanedione and 150 ml. toluene were stirred and heated to reflux for 2 hours with a Dean-Stark trap under a nitrogen atmosphere. The mixture was cooled to room temperature, 7.0 ml methyl iodide was added and the mixture was heated with stirring to 50 degrees Centigrade overnight. The product was diluted with toluene and water, and the organic phase washed with water, and stripped under reduced pressure. The residue was distilled in a Kugelrohr apparatus at 100-110 degrees Centigrade at 0.3 mm Hg to give 25.6 g distillate. The distillate was purified on a silica gel column and redistilled in a Kugelrohr apparatus to give 16.4 g of 1-phenyl-2-methyl-3-isoheptyl-1,3-propanedione. Employing the same procedure using benzyl iodide will provide the corresponding 1-phenyl-2-benzyl-3-isoheptyl-1,3-propanedione.

reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenyl-3-isoheptyl-1,3-propanedione | 24.8 g | C1(=CC=CC=C1)C(CC(=O)CCCCC(C)C)=O | C16H22O2
reactant | methyl iodide | 7.0 ml | CI | CH3I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tetrabutylammonium fluoride | 1.6 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-phenyl-2-methyl-3-isoheptyl-1,3-propanedione | 16.4 g | C1(=CC=CC=C1)C(C(C(=O)CCCCC(C)C)C)=O | C17H24O2
